US07259178B2
A solution of 3.0 g (11.6 mmol) of 2-(4-amino-phenyl)-1,1,1,3,3,3-hexafluoro-propan-2-ol in 40 mL of CH2Cl2 was treated with 3.0 mL (17.4 mmol) of DIPEA and dropwise at 0° with 1.8 mL (12.9 mmol) of TFAA. After stirring 1 hour at RT the mixture was distributed between a saturated aqueous solution of NH4Cl and Et2O. The combined organic phases were dried over Na2SO4 and evaporated to yield 4.2 g (quantitative) of crude 2,2,2-trifluoro-N-[4-(2,2,2-trifluoro-1-hydroxy-1-trifluoromethyl-ethyl)-phenyl]-acetamide, light brown oil, MS: 356 (MH+).

reactant | 2-(4-amino-phenyl)-1,1,1,3,3,3-hexafluoro-propan-2-ol | 11.6 mmol, 3.0 g | NC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C9H7F6NO
reactant | DIPEA | 17.4 mmol, 3.0 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | TFAA | 12.9 mmol, 1.8 mL | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
reactant | NH4Cl | [NH4+].[Cl-]
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
solvent | Et2O | CCOCC | C4H10O
product | 2,2,2-trifluoro-N-[4-(2,2,2-trifluoro-1-hydroxy-1-trifluoromethyl-ethyl)-phenyl]-acetamide | 4.2 g | FC(C(=O)NC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O)(F)F | C11H6F9NO2
